US09303016B2
Synthesis of 2-azatricyclo[3.3.1.13,7]dec-5-ylmethanol, Intermediate-16
To a 50 mL RB flask fitted with magnetic stirrer tert-butyl 5-(hydroxymethyl)-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-15 (0.12 g, 0.45 mmol) in DCM (5 mL) was added. The reaction mixture was cooled to 00° C. followed by addition of trifluoroacetic acid (0.26 g, 2.2 mmol). This mixture was stirred for 4 hours. After completion of the reaction (reaction was monitored by LCMS) reaction mixture was concentrated followed by trituration with mixture of hexane:ether (1:1) to give Intermediate-16 (0.12 g, yield=97%) as an oily mass.

reactant | tert-butyl 5-(hydroxymethyl)-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | OCC12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C15H25NO3
reactant | trifluoroacetic acid | 2.2 mmol, 0.26 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-azatricyclo[3.3.1.13,7]dec-5-ylmethanol | yield=97% | C12NC3CC(CC(C1)C3)(C2)CO | C10H17NO
